Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides) / Tomato / Fish Product Derivatives / Peach 
/ Citrus Derived / Egg
 
Attending: ___.
 
Chief Complaint:
fever, tachycardia 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o male s/p recent drainage of subdural empyema and 
ethmoidectomy who was d/c'd to rehab yesterday from neurosurgery 
service. He was discharged on ___ after complicated hospital 
course (see below) but returned to ___ ED on ___ when he was 
felt to be unarousable. Upon return to ED, he was easily 
arousable and at baseline mental status per Neurosurgical 
evaluation. In the ED, he received a CT head which was felt to 
be unchanged. After discussion with his rehab and overnight 
monitoring, he was discharged back to rehab on ___. However, 
upon arrival, he was noted to have a fever to 101 and was felt 
to have altered mental status as compared to earlier in the day. 
As a result, he was again sent back to ED for evaluation. In 
edition, he was now felt to have a faint maculopapular rash 
which is reportedly new.  
.  
Patient was admitted to ___ ___ to neurosurgery 
service with complicated course requiring ICU admission from 
___. He was initially transferred from ___ where 
he was brought after being found down in his office bathroom. He 
was intially thought to have a stroke based on ___ and 
left sided hemiparesis. MRI done here after transfer showed a 
frontal sinusitis with resulting empyema along the falx cerebri 
and along the lateral right frontal lobe. On ___ he underwent 3 
right sided craniotimies for drainage of subdural empyema. 
Subsequently, cultures from sinus tissue samples grew 
streptococcus ___. Unfortunatley the patient continued to 
remain unwell with fevers to 102 and tachypnea to the 40's. On 
___ a repeat head CT showed "significant interval progression 
of right cerebral subdural collections, now extending along the 
anterior falx and into the middle cranial fossa". There was also 
noted "significant associated mass effect including leftward 
shift of normally midline structures as well as subfalcine and 
uncal herniation." An MRV at that time showed no evidence of a 
venous thrombus in the brain. On ___, the patient went back to 
the OR for a sterotactic drainage of the abscess and an 
additional 40cc of purulent fluid was drained. He was also 
placed on seizure prophylaxis with Keppra. On ___ the patient 
was taken to the OR for evacuation of remaining abscess fluid. 
Transferred to the floor on ___ and subsequently discharged to 
___ on ___. Plan at that time was to complete a 4 
week course of antibiotics with IV Vanco/CTX. In addition, he 
was being treated for cdiff infection with Po Vanco/IV flagyl.  
.  
Of note, course was also complicated by the finding of an 
occlusive thrombus in the right lesser saphenous vein. However 
by ultrasound there was no evidence of thrombosis in the deep 
venous structures. No anticoagulation given other than heparin 
prophylaxis.  
.  
In ___ ED today, T 101, BP 107/64, HR 105, RR 26, O2 96% RA. 
CXR was negative. Blood cultures were sent. His labs were 
notable for the absence of a leukocytosis but eosinophils of 10% 
and a negative U/A for infection. Given his new rash, the case 
was discussed with ID (who followed previously) given concern 
for an allergic reaction and he received cipro 400mg IV in place 
of his ceftriaxone. He also received 2L of NS. Neurosurgery was 
reconsulted. Once again, patient was felt to be at baseline 
mental status. His head CT was again unchanged. He was admitted 
to medicine for further work-up.  
.  
Upon arrival to the floor, patient is without complaint. He does 
not know why he was sent back to the hospital. When asked, he 
states he is in "used real estate in ___. He denies fevers, 
chills, cough, SOB, abdominal pain, HA, numbness, weakness, 
dizziness, or changes in his vision.  

 
Past Medical History:
# htn  
# sinusitis  
# s/p Bilateral frontal sinus trephine  
# s/p Left external ethmoidectomy  
# s/p Left endoscopic maxillary antrostomy  

 
Social History:
___
Family History:
Family Hx: father died age ___, mother died ___ w/ CHF,
grandfather died of brain tumor

 
Physical Exam:
T: 97.3 BP: 115/78 HR: 98 RR: 20 O2 98% RA  
Gen: Flat affect, laying in bed, breathing comfortably, NAD  
HEENT: Healing surgical incisions on frontal bone. MMM. OP 
clear.  
NECK: Supple, No LAD. No JVD  
CV: RRR. nl S1, S2. No murmurs, rubs ___  
LUNGS: CTAB  
ABD: NABS. Soft, NT, ND. No HSM  
EXT: WWP, NO CCE. 2+ DP pulses ___. R PICC CDI  
SKIN: fine ___ rash over trunk and extremities  
NEURO: A&Ox2 (to person and year. does not know month or place). 
Pleasant and cooperative w/ exam. Able to follow commands. 
Affect flat. CN ___ intact. Preserved sensation throughout to 
light touch. ___nd RLE. 4+/5 strength in LUE. 
3+/5 in LLE.Gait assessment deferred  
.
ECG: Sinus tach @100. LAD. LAFB. No ST/TW changes. Compared w/ 
ECG ___, HR is faster but no other significant change.  

 
Pertinent Results:
Labs on admission:
___ 11:50PM BLOOD WBC-9.2 RBC-3.09* Hgb-10.1* Hct-29.8* 
MCV-96 MCH-32.7* MCHC-34.0 RDW-15.7* Plt ___
___ 11:50PM BLOOD Neuts-66.6 Lymphs-15.4* Monos-7.9 
Eos-10.0* Baso-0.2
___ 11:50PM BLOOD ___ PTT-24.2 ___
___ 01:15AM BLOOD Glucose-120* UreaN-13 Creat-0.9 Na-130* 
K-3.9 Cl-97 HCO3-24 AnGap-13
___ 01:15AM BLOOD ALT-27 AlkPhos-70 Amylase-76 TotBili-0.4
___ 01:15AM BLOOD Lipase-56
___ 01:15AM BLOOD Albumin-2.8* Calcium-8.3* Phos-3.3 Mg-2.0
___ 08:45AM BLOOD Vanco-6.5*
___ 12:07AM BLOOD Lactate-1.6
.
CT HEAD W/ & W/O CONTRAST  ___ 1:33 AM: 
1. No significant change in the appearance of extensive subdural 
empyemas and leptomeningeal enhancement and edema in the right 
cerebral hemisphere compared to CT head study done one day 
prior.
2. Stable bifrontal edema.
3. Sinus disease, as described above, unchanged.
.
CTA CHEST W&W/O C&RECONS, NON-CORONARY  ___ 1:29 ___
1. Evidence of pulmonary embolism within multiple segmental and 
subsegmental branches of the pulmonary arteries including left 
upper and left lower lobes. There is a questionable filling 
defect within the periphery of the right upper lobe segmental 
pulmonary artery.
2. Enlarged lymph nodes are identified within the mediastinum 
measuring up to 13 mm in short axis dimension in the prevascular 
space. Scattered subcentimeter lymph nodes are also identified 
within the right paratracheal distribution.
3. Evaluation of the pulmonary parenchyma reveals evidence of 
bibasilar opacities, which are hyperattenuating to suggest 
bilateral aspiration.
.
___ DUP EXTEXT BIL (MAP/DVT)  ___ 10:35 AM:
DVT seen in the right posterior tibial veins, and also in the 
left popliteal, posterior tibial and peroneal veins.
.
RENAL U.S.  ___ 1:16 ___ Unremarkable renal ultrasound 
examination
 
Brief Hospital Course:
___ year old male status post recent drainage of subdural empyema 
and ethmoidectomy during prolonged hospitalization complicated 
by persistent empyema requiring broad spectrum antibiotics and 
subsequent C diff, who now returns with fever, tachypnea, and 
tachycardia.  
.  
# DVT/PE:  Patient underwent lower extremity ultrasound on ___ 
to evaluate for DVT given presentation of fever and tachycardia, 
also report of tachypnea prior to presentation, although was not 
tachypnic at presentation.  Low suspicion at time, as patient 
was not complaining of lower extremity pain, no respiratory 
complaints, vital signs remained stable.  U/S returned positive 
for DVT in R post tibial veins and L popliteal, post tibial, and 
peroneal veins.  Follow up CTA chest demonstrated multiple PEs 
in segmental and subsegmental branches of pulm arteries, 
including left upper lobe and left lower lobe.  Neurosurgery was 
curbsided regarding whether it was ok to use anticoagulation 
given recent neurosurgical procedures, and they said this was ok 
with lower PTT threshold (45-60).  He was therefore treated with 
heparin drip bridge to coumadin. He was continued on heparin for 
24 hours after his INR was >2 and was then discontinued. He was 
continued on coumadin. 
.
# Eosinophilia: Patient noted to have mild eosinophilia of ~900 
on admission.  Given fevers and rash, and having just recently 
been started on ceftriaxone, this was felt to be related to drug 
reaction.  Ceftriaxone was discontinued, and eosinophil count 
trended down.  He continued to have mild eosinophilia throughout 
admission but was otherwise asymptomatic. This should be 
followed up as an outpatient. 
.  
# Altered mental status:  Was informed from rehab that patient 
had altered mental status.  His mental status on presentation 
was at baseline per neurosurgery and infectious disease doctors, 
who had seen the patient on his previous admission.  His 
baseline is somewhat alert, oriented to self and to year (___), 
and to who is president, but not oriented to month (thought it 
was ___ or to place.  He is also quite slow in his responses. 
 Head CT on admission, as above, unchanged.  Infectious work up 
as above.  Otherwise, neurological exam remained stable.  
Patient's mental status remained at his most recent baseline 
throughout admission and did show some mild improvement by the 
time of discharge.
.  
# Subdural Empyema: Infected with strep milleri, status post 
numerous repeat drainages on previous hospital course.  Head CT 
on admission showed no progression of infection.  The patient 
was being treated with IV vancomycin, ceftriaxone and flagyl for 
this infection.  As above, given presumed allergic reaction to 
ceftriaxone, this was discontinued, as was the IV flagyl, and IV 
meropenem (at CNS dosing) was started instead.  He was also 
maintained on his keppra for seizure prophylaxis. He will 
require prolonged therapy as detailed in his discharge 
instructions.  His vanco started being dosed by level (dose for 
level <20) following his acute renal failure. He should have 
daily vanco levels checked until renal function improves.  He 
may require an increase in his vancomycin dose with resolution 
of his renal failure. 
.  
# C diff: Developed during previous hospital course, presumably 
secondary to broad spectrum antibiotics for empyema.  Patient 
was continued on PO Vancomycin, to continue for 2 weeks after 
completed course of antibiotics for empyema above. 
.  
# Anemia: Hct 29 on presentation, which is at baseline - 
consistent with anemia of chronic disease. He anemia slightly 
improved over the course of admission but remained stable 
throughout. 
.
# Acute renal failure: Patient developed elevated Cr to 1.5 from 
baseline of 0.___fter episode of low 
blood pressure. However, this was also ~ 2 days following 
contrast administration for his CTA. He was treated with IVF and 
discontinuation of his lisinopril.  His Cr peaked at 1.7 and 
improved to 1.3 by the time of discharge. Renal ultrasounds was 
unremarkable; urine and serum electrophoreses were pending at 
discharge.  He continued to make excellent urine throughout 
without evidence of volume overload or electrolyte 
abnormalities. 
.
# Urinary incontinence: He was incontinent of urine after 
removal of foley catheter prior to discharge. He had no evidence 
of lower extremity paresthesia, acute weakness, or back pain; 
this should be monitored for improvement.
.  
# Hypertension:  Patient on metoprolol and lisinopril on 
admission.  Lisinopril was held due to acute renal failure as 
mentioned above.  This was held at the time of discharge, but it 
should be restarted once his Cr returns to baseline.
.  
# FEN: regular (please note allergies to tomatoes, fish 
products, peaches, citrus, and eggs)
.  
# CODE: FULL  
.  
# COMMUNICATION: sister ___ at ___    
 
Medications on Admission:
Metronidazole 500 mg IV Q8H: stop on ___ then change dose to 
PO.  
Acetaminophen 325 mg q6prn  
Insulin Regular QID prn  
Polyvinyl Alcohol-Povidone: ___ Drops Ophth prn  
Oxycodone-Acetaminophen ___ q4prn  
Famotidine 20 mg PO BID  
Heparin (Porcine) 5,000 unit BID  
Vancomycin 125 mg PO Q6H through ___ then change to Q8 then 
stop on ___.  
Metoprolol Tartrate 50 mg PO TID  
Levetiracetam 1500mg PO BID  
Ceftriaxone 2 gram IV BID  
Vancomycin 1,000 mg IV BID: Titrate to trough of 20 will 
continue to ___  
Lisinopril 10 mg BID  

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
2. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.  
3. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 12 
hours).  
4. Vancomycin 125 mg Capsule Sig: One (1) Capsule PO every ___ 
hours: Please give q 6 hours through ___, then change to q8 
hours from ___ through ___, then discontinue.  
5. Levetiracetam 500 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day).  
6. Vancomycin in Dextrose 1 gram/200 mL Piggyback Sig: One (1) 
gram Intravenous every ___ hours: Please continue 
through ___, then discontinue.

Please dose by level, with goal of ___.  
7. Meropenem 1 gram Recon Soln Sig: Two (2) grams Intravenous 
Q8H (every 8 hours): Please continue through ___, then 
discontinue.  
8. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO TID 
(3 times a day).  
9. Warfarin 2 mg Tablet Sig: One (1) Tablet PO HS (at bedtime): 
Please titrate to INR 2.0-3.0.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Presumed allergic reaction to ceftriaxone
DVT bilateraly
Diffuse Pulmonary embolism

Secondary diagnosis:
Subdural empyema
htn  
sinusitis  
s/p Bilateral frontal sinus trephine  
s/p Left external ethmoidectomy  
s/p Left endoscopic maxillary antrostomy  

 
Discharge Condition:
Good.  Patient afebrile, heart rate under better control.

 
Discharge Instructions:
You were admitted with fevers and elevated heart rate.  
Infectious work up including a repeat scan of your head, blood 
cultures and urine test were unchanged from previously.  You 
were found to have a rash and an elevated eosinophil count which 
was consistent with an allergic reaction, like to ceftriaxone.  
This was therefore discontinued and you were changed to 
meropenem instead.  You were also found to have diffuse DVT in 
both lower extremities and PEs.  This was treated with heparin 
bridge to coumadin.
.
Please take medications as directed.
.
Please follow up with appointments as directed.
.
Please contact physician if develop worsening fevers, chills, 
any other concerns.
 
Followup Instructions:
___